US04145432
A mixed solution of diethyl 2-methyl-4-(2-chlorophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (0.3798 g), pyridine (0.791 g) and succinic anhydride (0.1501 g) in dioxane (5 ml) was refluxed for 4.5 hours. The resultant solution was concentrated, acidified with dilute hydrochloric acid and extracted with diethyl ether. The extract was washed with dilute hydrochloric acid and water in turn. The diethyl ether extract was back-extracted with an aqueous saturated sodium bicarbonate solution and the aqueous solution was washed with diethyl ether. The aqueous solution was acidified with dilute hydrochloric acid to precipitate crystals. The crystals were collected by filtration, washed with water and then dried to give diethyl 2-methyl-4-(2-chlorophenyl)-6-(3-carboxypropionyl)oxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (419.3 mg), m.p. 130° to 131° C.

reactant | diethyl 2-methyl-4-(2-chlorophenyl)-6-hydroxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.3798 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)CO | C19H22ClNO5
reactant | pyridine | 0.791 g | N1=CC=CC=C1 | C5H5N
reactant | succinic anhydride | 0.1501 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | diethyl 2-methyl-4-(2-chlorophenyl)-6-(3-carboxypropionyl)oxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 419.3 mg | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OCC)COC(CCC(=O)O)=O | C23H26ClNO8
